US05001157
2-[[(Benzoylamino)thioxomethyl]amino]-4,5-dimethoxybenzamide
To a stirred mixture of 4 g of 2-amino-4,5-dimethoxybenzamide and 200 ml of ether was added dropwise, e solution of 3.3 g of benzoyl isothiocyanate in 100 ml of ether over 15 minutes. After 24 hours, the solid was collected, giving 7 g of the desired product as white crystals, mp 204°-207° C. (dec.).

reactant | 2-amino-4,5-dimethoxybenzamide | 4 g | NC1=C(C(=O)N)C=C(C(=C1)OC)OC | C9H12N2O3
reactant | benzoyl isothiocyanate | 3.3 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-[[(Benzoylamino)thioxomethyl]amino]-4,5-dimethoxybenzamide | 7 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C(=O)N)C=C(C(=C1)OC)OC | C17H17N3O4S
